US08580824B2
(RS)-1-(2-{4-[5-(2-Isobutyl-6-methyl-pyridin-4-yl)-[1,2,4]oxadiazol-3-yl]-phenyl}-acetyl)-pyrrolidine-3-carboxylic acid is prepared from {4-[5-(2-isobutyl-6-methyl-pyridin-4-yl)-[1,2,4]oxadiazol-3-yl]-phenyl}-acetic acid and (RS)-pyrrolidine-3-carboxylic acid hydrochloride in analogy to Example 65; LC-MS: tR=0.82, [M+1]+=448.10.

reactant | {4-[5-(2-isobutyl-6-methyl-pyridin-4-yl)-[1,2,4]oxadiazol-3-yl]-phenyl}-acetic acid | C(C(C)C)C1=NC(=CC(=C1)C1=NC(=NO1)C1=CC=C(C=C1)CC(=O)O)C | C20H21N3O3
reactant | (RS)-pyrrolidine-3-carboxylic acid hydrochloride | Cl.N1CC(CC1)C(=O)O
product | (RS)-1-(2-{4-[5-(2-Isobutyl-6-methyl-pyridin-4-yl)-[1,2,4]oxadiazol-3-yl]-phenyl}-acetyl)-pyrrolidine-3-carboxylic acid | C(C(C)C)C1=NC(=CC(=C1)C1=NC(=NO1)C1=CC=C(C=C1)CC(=O)N1CC(CC1)C(=O)O)C | C25H28N4O4
